US08613914B2
[(S)—((S)-1-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]decane-7-carbonyl}-2,2-dimethyl-propylcarbamoyl)-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester
A solution of (S)-tert-Butoxycarbonylamino-(1-methyl-cyclohexyl)-acetic acid (0.217 g; 0.80 mmol) (prepared according to Tetrahedron Let. 2007, 48, 6343-6347) and HATU (0.38 g; 1.00 mmol) in DCM (10 mL) was stirred for 20 min at ambient temperature. After addition of DIPEA (0.698 mL; 4.00 mmol) and (5R,8S)-7-((S)-2-Amino-3,3-dimethyl-butyryl)-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide (0.400 g; 0.67 mmol) in DCM (10 mL) the reaction mixture was stirred for 15 h, the solvent was removed in vacuo and the residue was purified by preparative HPLC (method L) to yield the title compound. LC-MS (method E): Rt=2.91 min; M/z=818 [M+H], HPLC (method A3) Rt=7.18 min

reactant | (S)-tert-Butoxycarbonylamino-(1-methyl-cyclohexyl)-acetic acid | 0.80 mmol, 0.217 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1(CCCCC1)C | C14H25NO4
reactant | HATU | 1.00 mmol, 0.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.00 mmol, 0.698 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (5R,8S)-7-((S)-2-Amino-3,3-dimethyl-butyryl)-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid [(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropyl]-amide | 0.67 mmol, 0.400 g | N1(CCCC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@]2(C3(CCC3)C2(C)C)C1)C([C@H](C(C)(C)C)N)=O | C28H45N5O5S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [(S)—((S)-1-{(5R,8S)-10,10-Dimethyl-8-[(1R,2S)-1-(pyrrolidine-1-sulfonylaminocarbonyl)-2-vinyl-cyclopropylcarbamoyl]-7-aza-dispiro[3.0.4.1]decane-7-carbonyl}-2,2-dimethyl-propylcarbamoyl)-(1-methyl-cyclohexyl)-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C1(CCCCC1)C)C(N[C@@H](C(C)(C)C)C(=O)N1C[C@]2(C3(CCC3)C2(C)C)C[C@H]1C(N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)N1CCCC1)=O)=O)=O | C42H68N6O8S
